US08609680B2
To a solution of diisopropylamine (22.6 mL, 159 mmol) in anhydrous THF (140 mL) in an oven-dried round-bottomed flask was added n-BuLi (65.4 mL, 163 mmol, 2.50 M in hexanes) dropwise at 0° C. The solution was stirred for 45 minutes and 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate (20 g, 80 mmol) in THF (60 mL) was added dropwise at 0° C. and the mixture was stirred at 0° C. for 1 hour. Chloroiodomethane (17.9 mL, 239 mmol) was added dropwise and the mixture was stirred for 1 h. The mixture was quenched with 250 mL of saturated aqueous NaHCO3 followed by extraction with ethyl acetate (3×250 mL). The combined organic layers were washed (brine, 250 mL), dried (Na2SO4) and concentrated under reduced pressure to give a yellow oil that was purified by silica chromatography using a Combiflash ISCO purification system (Teledyne Isco Inc., Lincoln, Nebr.) system to give 1-tert-butyl 4-methyl 4-(chloromethyl)piperidine-1,4-dicarboxylate (12 g, 52%). 1H NMR (CDCl3) δ 1.43 (s, 9H), 2.10-2.17 (m, 4H), 2.97 (br s, 2H), 3.56 (s, 2H), 3.74 (s, 3H), 3.83 (br s, 2H).

reactant | diisopropylamine | 159 mmol, 22.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 163 mmol, 2.50 M, 65.4 mL | [Li]CCCC
reactant | 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate | 80 mmol, 20 g | N1(CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
reactant | Chloroiodomethane | 239 mmol, 17.9 mL | ClCI | CH2ClI
solvent | THF | 140 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-methyl 4-(chloromethyl)piperidine-1,4-dicarboxylate | 12 g, 52% | ClCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C13H22ClNO4
